US07700604B2
(5)-5-Methyl-5-({[6-[2-(trifluoromethyl)pyrimidin-5-yl]-3,4-dihydroisoquinolin-2(1H)-yl]sulfonyl}methyl)imidazolidine-2,4-dione
[(4S)-4-Methyl-2,5-dioxoimidazolidin-4-yl]methanesulfonyl chloride (0.0295 g, 0.13 mmol) in dry THF (0.60 mL) was added dropwise to a stirred solution of 6-[2-(trifluoromethyl)pyrimidin-5-yl]-1,2,3,4-tetrahydroisoquinoline (0.039 g, 0.14 mmol), DIPEA (0.034 mL, 0.20 mmol) and dry THF (0.60 mL) at ice-bath temperature. After the addition was complete the solution was stirred at RT for 2 h and then taken up in water-brine and extracted twice with EtOAc. The combined organic phases were washed with brine, dried, filtered and concentrated to give a crude product. Purification by preparative HPLC afforded 0.050 g (76%) of the title compound as a white solid.

reactant | [(4S)-4-Methyl-2,5-dioxoimidazolidin-4-yl]methanesulfonyl chloride | 0.13 mmol, 0.0295 g | C[C@@]1(NC(NC1=O)=O)CS(=O)(=O)Cl | C5H7ClN2O4S
reactant | 6-[2-(trifluoromethyl)pyrimidin-5-yl]-1,2,3,4-tetrahydroisoquinoline | 0.14 mmol, 0.039 g | FC(C1=NC=C(C=N1)C=1C=C2CCNCC2=CC1)(F)F | C14H12F3N3
reactant | DIPEA | 0.20 mmol, 0.034 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 0.60 mL | C1CCOC1 | C4H8O
solvent | water brine | O.[Cl-].[Na+].O
solvent | THF | 0.60 mL | C1CCOC1 | C4H8O
product | (5)-5-Methyl-5-({[6-[2-(trifluoromethyl)pyrimidin-5-yl]-3,4-dihydroisoquinolin-2(1H)-yl]sulfonyl}methyl)imidazolidine-2,4-dione | 0.050 g, 76% | C[C@]1(C(NC(N1)=O)=O)CS(=O)(=O)N1CC2=CC=C(C=C2CC1)C=1C=NC(=NC1)C(F)(F)F | C19H18F3N5O4S
